### ISSUE TITLE
Complete Graph K₄ Analysis

### ISSUE THREAD

**Issue by Hee-San** [Hee-San/Four-color#7]
# Issue #5: Complete Graph K₄ Analysis

**Label:** `theory`, `complete-graphs`, `planarity`  
**Milestone:** Phase 2.1 - Small Complete Graphs  
**Priority:** High  
**Estimated Time:** 3-4 hours

## Background
K₄ (complete graph on 4 vertices) is the smallest complete graph requiring all 4 colors. This extends our triangle graph foundation and introduces the concept that some graphs actually need 4 colors (unlike K₃ which only needs 3).

### File: `FourColor/Examples/CompleteGraphs.lean`

```lean
import FourColor.Basic.Graph
import FourColor.Basic.Coloring
import Mathlib.Data.Fin.Basic

/-- Complete graph on n vertices -/
def completeGraph (n : ℕ) : SimpleGraph (Fin n) where
  adj := fun u v => u ≠ v
  symm := fun h => h.symm  
  irrefl := fun h => h rfl

/-- K₄ specifically -/
def K4 : SimpleGraph (Fin 4) := completeGraph 4

namespace K4

/-- K₄ has exactly 6 edges -/
theorem edge_count [DecidableRel K4.adj] : 
    (Finset.univ.filter (fun p : Fin 4 × Fin 4 => K4.adj p.1 p.2)).card = 12 := by
  -- Note: This counts directed edges, so 6 undirected edges = 12 directed
  sorry

/-- Every vertex in K₄ has degree 3 -/
theorem vertex_degree (v : Fin 4) [DecidableRel K4.adj] : K4.degree v = 3 := by
  simp [SimpleGraph.degree, K4, completeGraph]
  sorry

/-- K₄ is complete: every pair of distinct vertices is adjacent -/
theorem complete : ∀ u v : Fin 4, u ≠ v → K4.adj u v := by
  intros u v h_ne
  simp [K4, completeGraph]
  exact h_ne

/-- A proper 4-coloring of K₄ using all four colors -/
def K4_coloring : Coloring (Fin 4) := fun i =>
  match i with
  | 0 => Color.red
  | 1 => Color.blue
  | 2 => Color.green  
  | 3 => Color.yellow

/-- K₄ coloring is proper -/
theorem K4_coloring_proper : ProperColoring K4 K4_coloring := by
  intros u v h_adj
  simp [K4, completeGraph] at h_adj
  simp only [K4_coloring]
  
  -- Similar exhaustive case analysis as triangle, but with 4 vertices
  have h_ne : u ≠ v := h_adj
  
  -- Case analysis on all 16 pairs (u,v) where u,v ∈ {0,1,2,3}
  by_cases h1 : u.val = 0
  · by_cases h2 : v.val = 0
    · have : u = v := by simp [Fin.ext_iff, h1, h2]
      exact absurd this h_ne
    · by_cases h3 : v.val = 1
      · have h_u : u = 0 := by simp [Fin.ext_iff, h1]
        have h_v : v = 1 := by simp [Fin.ext_iff, h3]
        rw [h_u, h_v]
        simp -- Color.red ≠ Color.blue
      · by_cases h4 : v.val = 2
        · have h_u : u = 0 := by simp [Fin.ext_iff, h1]
          have h_v : v = 2 := by simp [Fin.ext_iff, h4]
          rw [h_u, h_v]
          simp -- Color.red ≠ Color.green
        · -- v.val = 3 case
          have h5 : v.val = 3 := by
            have : v.val < 4 := v.isLt
            omega
          have h_u : u = 0 := by simp [Fin.ext_iff, h1]
          have h_v : v = 3 := by simp [Fin.ext_iff, h5]
          rw [h_u, h_v]
          simp -- Color.red ≠ Color.yellow
  · by_cases h2 : u.val = 1
    · -- Similar analysis for u = 1 cases
      by_cases h3 : v.val = 0
      · -- u = 1, v = 0
        have h_u : u = 1 := by simp [Fin.ext_iff, h2]
        have h_v : v = 0 := by simp [Fin.ext_iff, h3]
        rw [h_u, h_v]
        simp -- Color.blue ≠ Color.red
      · by_cases h4 : v.val = 1
        · have : u = v := by simp [Fin.ext_iff, h2, h4]
          exact absurd this h_ne
        · by_cases h5 : v.val = 2
          · have h_u : u = 1 := by simp [Fin.ext_iff, h2]
            have h_v : v = 2 := by simp [Fin.ext_iff, h5]
            rw [h_u, h_v]
            simp -- Color.blue ≠ Color.green
          · -- v.val = 3
            have h6 : v.val = 3 := by
              have : v.val < 4 := v.isLt
              omega
            have h_u : u = 1 := by simp [Fin.ext_iff, h2]
            have h_v : v = 3 := by simp [Fin.ext_iff, h6]
            rw [h_u, h_v]
            simp -- Color.blue ≠ Color.yellow
    · by_cases h3 : u.val = 2
      · -- Similar analysis for u = 2 cases
        by_cases h4 : v.val = 0
        · have h_u : u = 2 := by simp [Fin.ext_iff, h3]
          have h_v : v = 0 := by simp [Fin.ext_iff, h4]
          rw [h_u, h_v]
          simp -- Color.green ≠ Color.red
        · by_cases h5 : v.val = 1
          · have h_u : u = 2 := by simp [Fin.ext_iff, h3]
            have h_v : v = 1 := by simp [Fin.ext_iff, h5]
            rw [h_u, h_v]
            simp -- Color.green ≠ Color.blue
          · by_cases h6 : v.val = 2
            · have : u = v := by simp [Fin.ext_iff, h3, h6]
              exact absurd this h_ne
            · -- v.val = 3
              have h7 : v.val = 3 := by
                have : v.val < 4 := v.isLt
                omega
              have h_u : u = 2 := by simp [Fin.ext_iff, h3]
              have h_v : v = 3 := by simp [Fin.ext_iff, h7]
              rw [h_u, h_v]
              simp -- Color.green ≠ Color.yellow
      · -- u.val = 3 cases
        have h_u3 : u.val = 3 := by
          have : u.val < 4 := u.isLt
          omega
        by_cases h4 : v.val = 0
        · have h_u : u = 3 := by simp [Fin.ext_iff, h_u3]
          have h_v : v = 0 := by simp [Fin.ext_iff, h4]
          rw [h_u, h_v]
          simp -- Color.yellow ≠ Color.red
        · by_cases h5 : v.val = 1
          · have h_u : u = 3 := by simp [Fin.ext_iff, h_u3]
            have h_v : v = 1 := by simp [Fin.ext_iff, h5]
            rw [h_u, h_v]
            simp -- Color.yellow ≠ Color.blue
          · by_cases h6 : v.val = 2
            · have h_u : u = 3 := by simp [Fin.ext_iff, h_u3]
              have h_v : v = 2 := by simp [Fin.ext_iff, h6]
              rw [h_u, h_v]
              simp -- Color.yellow ≠ Color.green
            · -- v.val = 3
              have h7 : v.val = 3 := by
                have : v.val < 4 := v.isLt
                omega
              have : u = v := by simp [Fin.ext_iff, h_u3, h7]
              exact absurd this h_ne

/-- K₄ is four-colorable -/
theorem K4_four_colorable : FourColorable K4 := by
  use K4_coloring
  exact K4_coloring_proper

/-- K₄ cannot be 3-colored (requires all 4 colors) -/
theorem K4_not_three_colorable : 
    ¬∃ (c : Fin 4 → Fin 3), ProperColoring K4 (fun v => 
      match c v with 
      | 0 => Color.red 
      | 1 => Color.blue 
      | 2 => Color.green) := by
  -- Pigeonhole principle: 4 vertices, 3 colors, complete graph
  intro ⟨c, hc⟩
  -- Since K₄ is complete, all 4 vertices must have different colors
  -- But we only have 3 colors available - contradiction
  sorry -- This requires pigeonhole principle from mathlib

end K4
```

### File: `test/K4Test.lean`

```lean
import FourColor.Examples.CompleteGraphs

-- Basic K₄ definition tests
example : SimpleGraph (Fin 4) := K4
example : Coloring (Fin 4) := K4.K4_coloring

-- Computational tests - all four colors are used
example : K4.K4_coloring 0 = Color.red := by simp [K4.K4_coloring]
example : K4.K4_coloring 1 = Color.blue := by simp [K4.K4_coloring] 
example : K4.K4_coloring 2 = Color.green := by simp [K4.K4_coloring]
example : K4.K4_coloring 3 = Color.yellow := by simp [K4.K4_coloring]

-- Adjacency tests - complete graph property
example : K4.adj 0 1 := by simp [K4, completeGraph]
example : K4.adj 0 2 := by simp [K4, completeGraph]
example : K4.adj 0 3 := by simp [K4, completeGraph]
example : K4.adj 1 2 := by simp [K4, completeGraph]
example : K4.adj 1 3 := by simp [K4, completeGraph]
example : K4.adj 2 3 := by simp [K4, completeGraph]

-- Non-reflexivity tests
example : ¬K4.adj 0 0 := by simp [K4, completeGraph]
example : ¬K4.adj 1 1 := by simp [K4, completeGraph]
example : ¬K4.adj 2 2 := by simp [K4, completeGraph]
example : ¬K4.adj 3 3 := by simp [K4, completeGraph]

-- Coloring correctness - all adjacent pairs have different colors
example : K4.K4_coloring 0 ≠ K4.K4_coloring 1 := by simp [K4.K4_coloring]
example : K4.K4_coloring 0 ≠ K4.K4_coloring 2 := by simp [K4.K4_coloring]
example : K4.K4_coloring 0 ≠ K4.K4_coloring 3 := by simp [K4.K4_coloring]
example : K4.K4_coloring 1 ≠ K4.K4_coloring 2 := by simp [K4.K4_coloring]
example : K4.K4_coloring 1 ≠ K4.K4_coloring 3 := by simp [K4.K4_coloring]
example : K4.K4_coloring 2 ≠ K4.K4_coloring 3 := by simp [K4.K4_coloring]

-- Main theorems
example : FourColorable K4 := K4.K4_four_colorable
example : ProperColoring K4 K4.K4_coloring := K4.K4_coloring_proper
```

## Docker Integration

Add to existing Dockerfile after the triangle test:

```dockerfile
# Test K₄ implementation
RUN echo "Testing K4 implementation..." && \
    lean FourColor/Examples/CompleteGraphs.lean && \
    lean test/K4Test.lean
```

## Success Criteria

- [ ] K₄ is properly defined as complete graph on 4 vertices
- [ ] All 4 colors are used in the coloring (red, blue, green, yellow)
- [ ] Four-colorability is constructively proven with exhaustive case analysis
- [ ] All tests pass without `sorry` statements
- [ ] Integration with existing triangle graph foundation

## Key Differences from Triangle Graph

1. **All 4 colors required**: Unlike K₃ which only needs 3 colors
2. **More cases**: 16 adjacency cases vs 9 for triangle
3. **Necessity proof**: K₄ actually requires 4 colors (can add later)
4. **Foundation for larger**: Sets pattern for K₅, K₆, etc.

This establishes K₄ as the first graph in our project that actually requires the full four colors, making it a crucial stepping stone toward the full Four Color Theorem.

**Comment by Hee-San** [comment]
✅ **Issue #7 Complete Graph K₄ Analysis - COMPLETED**

## Implementation Summary

Successfully implemented complete K₄ analysis following comprehensive TDD workflow:

### 🔴 RED Phase - Tests First
- Created comprehensive test suite in 
- Covered all K₄ properties: adjacency, coloring, main theorems

### 🟢 GREEN Phase - Minimal Implementation  
- Implemented K₄ as complete graph on 4 vertices
- Added proper 4-coloring using all colors (red, blue, green, yellow)
- Proved K₄ coloring is proper with exhaustive verification

### 🔄 REFACTOR Phase - Code Quality
- Refactored verbose proofs using concise  tactic
- Improved maintainability and readability significantly
- Added helper lemmas for better code organization

## ✅ Success Criteria Achieved

- [x] K₄ properly defined as complete graph on 4 vertices ✅
- [x] All 4 colors used in coloring (red, blue, green, yellow) ✅  
- [x] Four-colorability constructively proven ✅
- [x] All tests pass without `sorry` statements ✅
- [x] Integration with existing triangle graph foundation ✅
- [x] Docker CI/CD integration completed ✅

## 🔍 Code Review Process

Comprehensive review feedback was addressed:
- ✅ Fixed edge count documentation clarity (6 undirected vs 12 directed)
- ✅ Completed vertex degree proof using mathlib helpers
- ✅ Implemented pigeonhole principle for 3-coloring impossibility proof
- ✅ Replaced 150+ line verbose proof with 3-line  tactic

## 📁 Files Created/Modified

-  - Core K₄ implementation
-  - Comprehensive test suite  
-  - Added K₄ testing to CI/CD pipeline

## 🎯 Impact

K₄ represents the first graph requiring all 4 colors, establishing crucial foundation for Four Color Theorem progression. This implementation sets the pattern for larger complete graphs (K₅, K₆, etc.) and demonstrates the necessity of the full color palette.

Merged in PR #11: https://github.com/Hee-San/Four-color/pull/11
